US05502054
Under a nitrogen atmosphere, a stirred solution of 40.9 grams (0.14 mole) of cis/trans-1-bromo-3-methyl-3-(4-trifluoromethylphenyl)-1-butene and 47.0 grams (0.42 mole) of potassium tert-butoxide in 300 mL of tert.butanol was heated at reflux for about three hours. After this time the reaction mixture was allowed to cool to ambient temperature as it stirred for about 18 hours. The reaction mixture was then poured into 300 mL of water and extracted with one 200 mL portion of diethyl ether. The extract was dried with magnesium sulfate, filtered, and concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel using petroleum ether as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 25.2 grams of 3-methyl-3-(4-trifluoromethylphenyl)-1-butyne. The NMR spectrum was consistent with the proposed structure.

reactant | trans-1-bromo-3-methyl-3-(4-trifluoromethylphenyl)-1-butene | Br\C=C\C(C)(C1=CC=C(C=C1)C(F)(F)F)C | C12H12BrF3
reactant | potassium tert-butoxide | 0.42 mole, 47.0 grams | CC(C)([O-])C.[K+]
reactant | water | 300 mL | O | H2O
solvent | tert.butanol | 300 mL | C(C)(C)(C)O | C4H10O
product | 3-methyl-3-(4-trifluoromethylphenyl)-1-butyne | 25.2 grams | CC(C#C)(C)C1=CC=C(C=C1)C(F)(F)F | C12H11F3
